### PR TITLE
Abstract validators

### PR DESCRIPTION
**Pull request by traiansf**
Abstracting validators to allow defining the validation property for generic projections, not just those of a constrained composition.

### CODE REVIEW

File: theories/VLSM/Core/VLSMProjections.v [hunk 1]
```diff
@@ -195,6 +209,15 @@ Definition VLSM_partial_projection_input_valid_transition
...
   := VLSM_weak_partial_projection_input_valid_transition VLSM_partial_projection_weaken.
 
+Definition VLSM_partial_projection_input_valid
+  : forall lX sX inX, input_valid X lX (sX, inX) ->
+    forall sX' outX, vtransition X lX (sX, inX) = (sX', outX) ->
+    forall sY itemY,
+    trace_project (sX, [{| l := lX;  input := inX; destination := sX'; output := outX |}])
+      = Some (sY, [itemY]) ->
+    input_valid Y (l itemY) (sY, input itemY)
+  := VLSM_weak_partial_projection_input_valid VLSM_partial_projection_weaken.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSMProjections.v:219]: This is a bit suspicious. If you really want to have another name for `VLSM_weak_ ...`, then maybe you should get rid of all the type annotations?

```suggestion
Definition VLSM_partial_projection_input_valid
  := VLSM_weak_partial_projection_input_valid VLSM_partial_projection_weaken.
```

File: theories/VLSM/Core/VLSMProjections.v [hunk 2]
```diff
@@ -653,6 +676,17 @@ Proof.
...
 
+Lemma VLSM_weak_projection_input_valid
+  : forall lX lY, label_project lX = Some lY ->
+    forall sX im,
+    input_valid X lX (sX, im) -> input_valid Y lY (state_project sX, im).
+Proof.
+  intros lX lY Hpr sX im HvX.
+  destruct (vtransition X lX (sX, im)) eqn:HtX.
+  eapply proj1, VLSM_weak_projection_input_valid_transition, input_valid_can_transition
+  ; [eassumption|assumption|exact HtX].
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSMProjections.v:687]:
```suggestion
  eapply proj1, VLSM_weak_projection_input_valid_transition, input_valid_can_transition;
  eassumption.
```

File: theories/VLSM/Core/VLSMProjections.v [hunk 3]
```diff
@@ -797,6 +831,12 @@ Definition VLSM_projection_input_valid_transition
     input_valid_transition Y lY (state_project s, im) (state_project s', om)
   := VLSM_weak_projection_input_valid_transition VLSM_projection_weaken.
 
+Definition VLSM_projection_input_valid
+  : forall lX lY, label_project lX = Some lY ->
+    forall s im,
+    input_valid X lX (s, im) -> input_valid Y lY (state_project s, im)
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSMProjections.v:837]: Again, maybe you should get rid of the type annotation? This could save you some time later if you were to refactor the original definition.

File: theories/VLSM/Core/VLSMProjections.v [hunk 4]
```diff
@@ -1275,6 +1315,14 @@ Proof.
   ; [assumption|reflexivity].
 Qed.
 
+Lemma VLSM_weak_full_projection_input_valid l s im
+  : input_valid X l (s,im) -> input_valid Y (label_project l) (state_project s,im).
+Proof.
+  intros.
+  eapply (VLSM_weak_projection_input_valid VLSM_weak_full_projection_is_projection)
+  ; [reflexivity|assumption].
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSMProjections.v:1323]: Maybe some more automation? (calling `trivial` "automation" is funny)

```suggestion
  eapply (VLSM_weak_projection_input_valid VLSM_weak_full_projection_is_projection); trivial.
```

File: theories/VLSM/Core/VLSMProjections.v [hunk 5]
```diff
@@ -2978,6 +3014,24 @@ Proof.
...
+  : vvalid projection_induced_vlsm l (s, om) -> input_valid projection_induced_vlsm l (s,om).
+Proof.
+  intro Hv.
+  destruct (id Hv) as [lX [sX [HlX [<- [Hps [Hopm _]]]]]].
+  repeat split.
+  - apply (VLSM_projection_valid_state Hproj). assumption.
+  - destruct om as [m|]; [|apply option_valid_message_None].
+    apply option_initial_message_is_valid.
+    assumption.
+  - assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/VLSMProjections.v:3032]: I would write it this way.

```suggestion
 intro Hv.
  destruct (id Hv) as (lX & sX & HlX & <- & Hps & Hopm & _).
  repeat split; [| | assumption].
  - eapply VLSM_projection_valid_state; eassumption.
  - destruct om as [m |].
    + apply option_initial_message_is_valid. assumption.
    + apply option_valid_message_None.
```

Less braces feels like an improvement : )

File: theories/VLSM/Core/ProjectionTraces.v [hunk 6]
```diff
@@ -264,13 +264,158 @@ Definition composite_project_label
...
+Lemma composite_vlsm_constrained_projection_is_induced
+  : VLSM_eq Xj
+    (projection_induced_vlsm X (type (IM j))
+      composite_project_label (fun s => s j)
+      (lift_to_composite_label IM j) (lift_to_composite_state IM j)).
+Proof.
+  apply VLSM_eq_incl_iff.
+  split.
+  - apply basic_VLSM_strong_incl.
+    + intros s Hs.
```
Comment (wkolowski) [inline theories/VLSM/Core/ProjectionTraces.v:280]: I have mixed feelings regarding this: should we do some simplifications before `exists` to make it more readable, or omit it to make the proof shorter/more maintainable?

```suggestion
    + intros s Hs; cbn; red.
```

File: theories/VLSM/Core/ProjectionTraces.v [hunk 7]
```diff
@@ -264,13 +264,158 @@ Definition composite_project_label
...
+      unfold composite_project_label.
+      case_decide; [|contradiction].
+      cbn in H |- *.
+      replace H with (@eq_refl index j) by (apply Eqdep_dec.UIP_dec; assumption).
+      reflexivity.
+    + intros l s iom s' oom.
+      cbn.
+      unfold lift_to_composite_state at 1.
+      rewrite state_update_eq.
+      cbn.
```
Comment (wkolowski) [inline theories/VLSM/Core/ProjectionTraces.v:298]: Does nothing.

```suggestion
```

File: theories/VLSM/Core/ProjectionTraces.v [hunk 8]
```diff
@@ -264,13 +264,158 @@ Definition composite_project_label
...
+      setoid_rewrite Ht.
+      rewrite state_update_eq.
+      reflexivity.
+  - cbn. apply basic_VLSM_strong_incl.
+    + intros s [sX [<- HsX]].
+      apply (HsX j).
+    + intros m Him.
+      exists (exist _ m Him).
+      reflexivity.
+    + intros l s iom [[i li] [sX [HlX [<- Hv]]]].
```
Comment (wkolowski) [inline theories/VLSM/Core/ProjectionTraces.v:309]: Flatter intro-patterns:

```suggestion
    + intros l s iom ([i li] & sX & HlX & <- & Hv).
```

File: theories/VLSM/Core/Validator.v [hunk 9]
```diff
@@ -1,239 +1,386 @@
...
 
-Definition projection_validator_received_messages_prop
-    :=
-    forall (li : vlabel (IM i)) (si : vstate (IM i)) (mi : message),
-        ~ vvalid Xi li (si, Some mi)
-        -> ~ input_valid (pre_loaded_with_all_messages_vlsm (IM i)) li (si, Some mi).
+Definition projection_validator_received_messages_prop :=
+  forall (li : vlabel Y) (si : vstate Y) (mi : message),
+    ~ projection_induced_valid X (type Y) label_project state_project li (si, Some mi)
+    -> ~ input_valid PreY li (si, Some mi).
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:32]: Why negations on both sides of the implication? The converse would be more constructive.

File: theories/VLSM/Core/Validator.v [hunk 10]
```diff
@@ -1,239 +1,386 @@
...
-    intros Hvalidator si omi li Hpvi.
-    specialize (Hvalidator li (si, omi) Hpvi). clear Hpvi.
-    destruct Hvalidator as [s [Hsi [Hps [Hopm [Hvalid Hctr]]]]].
-    destruct (vtransition X (existT i li) (s, omi)) as (s', om') eqn:Heqt.
-    exists s. exists s'. exists om'.
-    subst si.
-    repeat split; assumption.
+  intros Hvalidator li si omi Hpvi.
+  specialize (Hvalidator _ _ _ Hpvi)
+    as [l [s [Hli [Hsi [Hps [Hopm Hvalid]]]]]].
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:79]: Less braces.

```suggestion
  specialize (Hvalidator _ _ _ Hpvi)
    as (l & s & Hli & Hsi & Hps & Hopm & Hvalid).
```

File: theories/VLSM/Core/Validator.v [hunk 11]
```diff
@@ -1,239 +1,386 @@
...
+  : transition_validator -> projection_validator_prop.
 Proof.
-    intros Hvalidator li (si,omi) Hpvi.
-    specialize (Hvalidator si omi li Hpvi). clear Hpvi.
-    destruct Hvalidator as [s [s' [om' [Hsi [Hvalid Htransition]]]]].
-    symmetry in Hsi.
-    exists s. split; assumption.
+  intros Hvalidator li si omi Hpvi.
+  specialize (Hvalidator _ _ _ Hpvi)
+    as [l [s [s' [om' [[Hvalid Htransition] [Hli Hsi]]]]]].
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:92]: Same as above.

File: theories/VLSM/Core/Validator.v [hunk 12]
```diff
@@ -1,239 +1,386 @@
...
+[projection_induced_vlsm] has the same output as the transition on <<Y>>.
+*)
+Lemma projection_induced_valid_transition_eq
+  : forall l s om, vvalid Xi l (s, om) ->
+    vtransition Xi l (s, om) = vtransition Y l (s, om).
+Proof.
+  intros l s im [lX [sX [Hlx [<- Hv]]]].
+  replace (vtransition Y _ _) with
+    (state_project (vtransition X lX (sX, im)).1, (vtransition X lX (sX, im)).2).
+  - eapply proj2, (VLSM_projection_input_valid_transition Hproji) with (lY := l)
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:130]: `eapply proj2` looks very scary, I would drop it.

```suggestion
  - eapply (VLSM_projection_input_valid_transition Hproji) with (lY := l)
```

File: theories/VLSM/Core/Validator.v [hunk 13]
```diff
@@ -1,239 +1,386 @@
...
+  : VLSM_incl Xi PreY.
+Proof.
+  apply basic_VLSM_incl.
+  - intros is [s [<- Hs]].
+    apply (VLSM_projection_initial_state Hproj).
+    assumption.
+  - intro; intros. apply any_message_is_valid_in_preloaded.
+  - intros l s om [_ [_ [lX [sX [Hlx [<- Hv]]]]]] _ _.
+    simpl.
+    eapply proj2, proj2, (VLSM_projection_input_valid Hproj); eassumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:151]: Again.

```suggestion
    eapply (VLSM_projection_input_valid Hproj); eassumption.
```

File: theories/VLSM/Core/Validator.v [hunk 14]
```diff
@@ -1,239 +1,386 @@
...
+  intros Hvalidator sY Hs.
+  induction Hs using valid_state_prop_ind.
+  - apply initial_state_is_valid.
+    exists (state_lift s).
+    split; [apply Hstate_lift|].
+    apply Hinitial_lift.
+    assumption.
+  - destruct Ht as [[_ [_ Hvalid]] Htrans].
+    specialize (Hvalidator _ _ _ Hvalid IHHs)
+      as [lX [sX [HlX [HsX HvX]]]].
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:188]: Here too.

**Review by wkolowski — COMMENTED** [review]
Looks good, there are only minor improvements for the proofs.

File: theories/VLSM/Core/VLSMProjections.v (hunk 1 above)
Comment (traiansf) [reply theories/VLSM/Core/VLSMProjections.v:219]: I guess that would work; however for me type annotations served as documentation, because it's much more often the case that one would use this lemma instead of the `weak` one.

File: theories/VLSM/Core/Validator.v (hunk 9 above)
Comment (traiansf) [reply theories/VLSM/Core/Validator.v:32]: This is the original definition that Vlad proposed; we keep it only as a reference.

File: theories/VLSM/Core/VLSMProjections.v (hunk 3 above)
Comment (traiansf) [reply theories/VLSM/Core/VLSMProjections.v:837]: If I were to get rid of the type annotations, I think we should do it uniformly, i.e., for all similar definitions.
I tried to do that now, but it seems to break existing proofs (because apparently the type annotations provide some guiding for the prover). I'll add a TODO and maybe whoever we next refactor these will be able to sort them out.

File: theories/VLSM/Core/Validator.v [hunk 15]
```diff
@@ -258,58 +404,58 @@ byzantine behavior.
...
-          split; [|assumption].
-          (* using the [self_validator_vlsm_prop]erty. *)
-          revert Hvx.
-          apply Hvalidator.
-    Qed.
+Lemma pre_loaded_with_all_messages_self_validator_vlsm_incl
+  : VLSM_incl PreX X.
+Proof.
+  unfold self_validator_vlsm_prop  in Hvalidator.
+  destruct X as [T [S M]]. simpl in *.
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/Validator.v:424]: Thanks, I did not know about this syntax

File: theories/VLSM/Core/Validator.v [hunk 16]
```diff
@@ -1,239 +1,383 @@
...
-            (om' : option message),
-            si = s i
-            /\
-            input_valid_transition X (existT i li) (s, omi) (s', om')
-        ).
+  forall lY sY omi, input_valid PreY lY (sY, omi) ->
+  exists lX sX sX' om',
+   input_valid_transition X lX (sX, omi) (sX', om') /\
+   label_project lX = Some lY /\
+   state_project sX = sY.
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:67]: Maybe you should try to use a record instead of `exists` and `/\`?

File: theories/VLSM/Core/Validator.v [hunk 17]
```diff
@@ -1,239 +1,383 @@
...
+  intros l s im (lX & sX & Hlx & <- & Hv).
+  replace (vtransition Y _ _) with
+    (state_project (vtransition X lX (sX, im)).1, (vtransition X lX (sX, im)).2).
+  - eapply (VLSM_projection_input_valid_transition Hproji) with (lY := l)
+    ; [eassumption|].
+    split; [assumption|].
+    apply injective_projections; reflexivity.
+  - symmetry.
+    eapply (VLSM_projection_input_valid_transition Hproj) with (lY := l)
+    ; [eassumption|].
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:136]: Turns out you don't need to instantiate `lY` here.

```suggestion
  - eapply (VLSM_projection_input_valid_transition Hproji)
    ; [eassumption|].
    split; [assumption|].
    apply injective_projections; reflexivity.
  - symmetry.
    eapply (VLSM_projection_input_valid_transition Hproj)
    ; [eassumption|].
```

File: theories/VLSM/Core/Validator.v [hunk 18]
```diff
@@ -1,239 +1,383 @@
...
+Qed.
+
+Lemma induced_projection_incl_preloaded_with_all_messages
+  : VLSM_incl Xi PreY.
+Proof.
+  apply basic_VLSM_incl.
+  - intros is (s & <- & Hs).
+    apply (VLSM_projection_initial_state Hproj).
+    assumption.
+  - intro; intros. apply any_message_is_valid_in_preloaded.
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:148]: `intro; intros` is a code smell that pops up when you don't name hypotheses : )

```suggestion
  - intros l s m Hv HsY HmX. apply any_message_is_valid_in_preloaded.
```

File: theories/VLSM/Core/Validator.v [hunk 19]
```diff
@@ -1,239 +1,383 @@
...
+      split; [eassumption|].
+      apply injective_projections; reflexivity.
+    + assert (HivtX : input_valid_transition X lX (sX, om) (vtransition X lX (sX, om)))
+        by firstorder.
+      destruct (vtransition _ _ _) as (sX', _om').
+      apply (VLSM_projection_input_valid_transition Hproj) with (lY := l)
+        in HivtX as [_ Hs']
+      ; [|assumption].
+      rewrite HsX in Hs'.
+      destruct Y as (TY, (SY, MY)).
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:202]:
```suggestion
      eapply (VLSM_projection_input_valid_transition Hproj) in HivtX as [_ Hs']
      ; [|eassumption].
      rewrite HsX in Hs'.
      destruct Y as (TY & SY & MY).
```

File: theories/VLSM/Core/Validator.v [hunk 20]
```diff
@@ -1,239 +1,383 @@
...
+  : VLSM_incl PreY Xi.
+Proof.
+  (* reduce inclusion to inclusion of finite traces. *)
+  apply VLSM_incl_finite_traces_characterization.
+  intros sY trY HtrY.
+  split; cycle 1.
+  - exists (state_lift sY).
+    split; [apply Hstate_lift|].
+    apply Hinitial_lift.
+    apply HtrY.
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:255]:
```suggestion
    apply Hinitial_lift, HtrY.
```

File: theories/VLSM/Core/Validator.v [hunk 21]
```diff
@@ -1,239 +1,383 @@
...
+  - induction HtrY using finite_valid_trace_rev_ind.
+    + apply (finite_valid_trace_from_empty Xi).
+      apply initial_state_is_valid.
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:258]:
```suggestion
    + apply (finite_valid_trace_from_empty Xi), initial_state_is_valid.
```

File: theories/VLSM/Core/Validator.v [hunk 22]
```diff
@@ -1,239 +1,383 @@
...
+      exists (state_lift si).
+      split; [apply Hstate_lift|].
+      apply Hinitial_lift.
+      assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:262]: Some automation.

```suggestion
      auto.
```

File: theories/VLSM/Core/Validator.v [hunk 23]
```diff
@@ -1,239 +1,383 @@
...
+  ; [|apply VLSM_eq_sym, composite_vlsm_constrained_projection_is_induced].
+  apply pre_loaded_with_all_messages_validator_proj_eq.
+  - apply component_projection_to_preloaded.
+  - apply component_transition_projection_None.
+  - apply component_label_projection_lift.
+  - apply component_state_projection_lift.
+  - intro s. apply (lift_to_composite_state_initial IM).
+  - apply component_transition_projection_Some.
+  - intros li si omi Hiv.
+    apply Hvalidator in Hiv as [sX [<- HivX]].
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:356]: This whole subproof looks a bit weird, maybe you should have a separate lemma like for the other cases?

```suggestion
    apply Hvalidator in Hiv as (sX & <- & HivX).
```

File: theories/VLSM/Core/Validator.v (hunk 18 above)
Comment (traiansf) [reply theories/VLSM/Core/Validator.v:148]: true, but I was thinking I don't need to name them if I don't use them.

File: theories/VLSM/Core/Validator.v (hunk 16 above)
Comment (traiansf) [reply theories/VLSM/Core/Validator.v:67]: Maybe, but we haven't done that much so far, at least not for propositions.  @palmskog @bmmoore what do you think about this?

File: theories/VLSM/Core/VLSM.v [hunk 24]
```diff
@@ -641,6 +641,9 @@ given inputs and that they have a [valid_state] and a [valid_message].
       input_valid l som
       /\  transition l som = som'.
 
+    Definition input_valid_transition_item (s : state) (item : transition_item) :=
```
Comment (denisadiaconescu) [inline theories/VLSM/Core/VLSM.v:644]: For the moment, I think this definition should have the same indentation as `input_valid_transition`, for example.

File: theories/VLSM/Core/Validator.v [hunk 25]
```diff
@@ -1,239 +1,378 @@
...
-From VLSM Require Import Lib.Preamble Core.VLSM Core.VLSMProjections Core.Composition Core.ProjectionTraces.
+From VLSM.Lib Require Import Preamble ListExtras.
+From VLSM.Core Require Import VLSM VLSMProjections Composition ProjectionTraces.
 
 (** * VLSM Projection Validators
 
-In the sequel we fix a composite VLSM <<X>> obtained from an indexed family
-of VLSMs <<IM>> and a <<constraint>>, and an index <<i>>, corresponding to
-component <<IM i>>.
+In the sequel we fix a VLSMs <<X>> and <<Y>> and a [VLSM_projection]
```
Comment (denisadiaconescu) [inline theories/VLSM/Core/Validator.v:8]: I think it should be "we fix VLSMs ..."

File: theories/VLSM/Core/Validator.v (hunk 16 above)
Comment (wkolowski) [reply theories/VLSM/Core/Validator.v:67]: @traiansf

I did try to do that a bit in ELMO and while it's conceptually clearer and feels nicer, there are problems with automation like when using `typeclasses eauto` - you have some instances for `/\`, but it's hard to write a generic instance for records. So maybe the idea of using records isn't as appealing as I have thought at the beginning, but I think we should experiment with it a bit.

File: theories/VLSM/Core/Validator.v [hunk 26]
```diff
@@ -1,239 +1,378 @@
...
+non-[projection_induced_valid]itiy implied non-component-[valid]ity
+(or non-reachability).
 *)
 
-Definition projection_validator_received_messages_prop
-    :=
-    forall (li : vlabel (IM i)) (si : vstate (IM i)) (mi : message),
-        ~ vvalid Xi li (si, Some mi)
-        -> ~ input_valid (pre_loaded_with_all_messages_vlsm (IM i)) li (si, Some mi).
+Definition projection_validator_received_messages_prop :=
```
Comment (denisadiaconescu) [inline theories/VLSM/Core/Validator.v:29]: Maybe this definition can be dropped and keep only `projection_validator_prop`

File: theories/VLSM/Core/Validator.v (hunk 16 above)
Comment (traiansf) [reply theories/VLSM/Core/Validator.v:67]: Then I think I'll leave experimentation to you for now :-)

**Review by denisadiaconescu — APPROVED** [review]
This is looking great.
